US04994477
2-(1-Ethoxycarbonyl)pentyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-1-one
A solution of 0.38 ml (2.8 mmol) of diisopropylamine in 25 ml of dry tetrahydrofuran was cooled under N2 atmosphere to -78° C. and treated with 1.1 ml (2.8 mmol) of n-butyllithium. The resulting solution was warmed to 0° C. for 5 min, recooled to -78° C. and treated with a solution of 250 mg (1.34 mmol) of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-1-one (J. Chem. Soc. 1960, 4699) in 5 ml of tetrahydrofuran. The solution was allowed to warm to 0° C. followed by treatment with 0.25 ml (1.4 mmol) of ethyl 2-bromohexanoate. The resulting solution was stirred at ambient temperature for 16 h, partitioned between ether and aqueous ammonium chloride, washed with saturated brine, dried over MgSO4, and concentrated. Purification of the residue by silica gel chromatography using 3:1 hexane:ethyl acetate gave 172 mg (39%) of the desired compound as a colorless oil. 1H NMR (CDCl3) δ 0.91 (br t,3H), 1.27 (5,J=7 Hz,3H), 1.4 (m,4H), 1.86 (m,1H), 2.10 (m,1H), 3.10 (m,2H), 3.66 (ddd,J=13,8,6 Hz,1H), 3.81 (ddd,13,8,6 Hz,1H), 4.2 (m,2H), 5.39 (dd,J=10,5 Hz,1H), 7.15 (td,J=7,1 Hz,1H), 7.31 (td,J=7,1 Hz,1H), 7.47 (d,J=7 Hz,1H), 7.60 (d,J=7 Hz,1H), 9.81 (br s,1H).

reactant | diisopropylamine | 2.8 mmol, 0.38 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.8 mmol, 1.1 ml | C(CCC)[Li]
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-1-one | 1.34 mmol, 250 mg | C1(NCCC2=C1NC1=CC=CC=C21)=O | C11H10N2O
reactant | ethyl 2-bromohexanoate | 1.4 mmol, 0.25 ml | BrC(C(=O)OCC)CCCC | C8H15BrO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(1-Ethoxycarbonyl)pentyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indol-1-one | 172 mg, 39% | C(C)OC(=O)C(CN1C(C=2NC3=CC=CC=C3C2CC1)=O)CCC | C19H24N2O3
